US06756388B1
6-Methoxy-benzo[b]thiophene.
To a solution of boron trifluoride etherate (14.45 mL, 115 mmol) in 2000 mL of methylene chloride stirring in a cold water bath 20° C. was added dropwise 1-(2,2-Diethoxy-ethylsulfanyl)-3-methoxy-benzene (28.2 gm, 110 mmol) dissolved in 500 mL of methylene chloride. The addition was complete in 3 hrs. and then the reaction was warmed to room temperature for a further 1.5 hrs. The reaction mixture was then quenched with saturated sodium bicarbonate solution. The organic layer was separated and the aqueous layer was back extracted several times with methylene chloride. The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and concentrated. The crude product was chromatographed on silica gel (using a gravity column) using hexanes as the eluant to yield 10.9 gm of the title compound.

reactant | boron trifluoride etherate | 115 mmol, 14.45 mL | B(F)(F)F.CCOCC
reactant | 1-(2,2-Diethoxy-ethylsulfanyl)-3-methoxy-benzene | 110 mmol, 28.2 gm | C(C)OC(CSC1=CC(=CC=C1)OC)OCC | C13H20O3S
solvent | methylene chloride | 2000 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | 6-Methoxy-benzo[b]thiophene | 10.9 gm | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
